US07875728B2
4-[N′-(3,5-diaminopyrazol-4-ylidene)hydrazino]benzoic acid ethyl ester was prepared using 121 mg (0.5 mmol) of 4-(N′-dicyanomethylenehydrazino)benzoic acid ethyl ester, which was derived from ethyl 4-aminobenzoate (165 mg, 1.0 mmol) and malononitrile (1.5 mmol), and hydrazine hydrate. The hydrazine hydrate was added to the solution at a temperature of 75° C. The solution cleared briefly and then a precipitate formed. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 45 mg (33%) of the compound as a yellow solid.

reactant | 4-(N′-dicyanomethylenehydrazino)benzoic acid ethyl ester | 0.5 mmol, 121 mg | C(C)OC(C1=CC=C(C=C1)NN=C(C#N)C#N)=O | C12H10N4O2
reactant | ethyl 4-aminobenzoate | 1.0 mmol, 165 mg | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 4-[N′-(3,5-diaminopyrazol-4-ylidene)hydrazino]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NN=C1C(=NN=C1N)N)=O | C12H14N6O2
